US04125622
A mixture of 2.6 g of maleic acid monomethyl ester, 3.2 g of 2-hydroxy-2-methylheptane-1-thiol, 0.5 ml of pyridine and 120 ml of methylene chloride is stirred for 3 hours at 30°. After the usual working up, 6-hydroxy-3-hydroxycarbonyl-6-methyl-4-thiaundecanoic acid methyl ester is obtained.

reactant | maleic acid monomethyl ester | 2.6 g | COC(\C=C/C(=O)O)=O | C5H6O4
reactant | 2-hydroxy-2-methylheptane-1-thiol | 3.2 g | OC(CS)(CCCCC)C | C8H18OS
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-3-hydroxycarbonyl-6-methyl-4-thiaundecanoic acid methyl ester | COC(CC(SCC(CCCCC)(C)O)C(=O)O)=O | C13H24O5S
